US05935542
Trimethylsulfoxonium Ethyl Cyanophosphonate
Diethyl cyanophosphonate (0.50 g, 3.06 mmol) and trimethylsulfoxonium iodide (0.673 g, 3.06 mmol) were added to dimethylacetamide (1 mL) which was heated to 80° C. for 1 hour. Then ether (9 mL) containing 1 mL of acetone was added to give 0.47 g (78% yield) of a viscous residue which was crystallized within 15 hours. It was washed by CH2Cl2 and dried under vacuum, and analyzed by NMR and mass spectrometry. 31P NMR (D2O) δ (ppm) -19.7 (t, 3JPH =9.15 Hz); 1H NMR (D2O) δ (ppm) 1.22 (t), 3.78 (s), and 4.05 (qnt); 13C NMR (D2O) δ (ppm) 118.1 (d, 1JCP =178.9 Hz), 63.3 (d, 1JCP =6.3 Hz), 39.5, 15.0 (d, 3JCP =6.87 Hz). Mass spectral analysis (FAB+, DTT:DTE, 1:1) detected a peak at m/z 320.1, corresponding to the complex [[+OS(CH3)3 -O(OC2H5)POCN] [OS(CH3)3 ]+ ], the presence of a cation at m/z 93 ([OS(CH3)3 ]+) and an anionic species (FAB-, DTT:DTE, 1:1) at m/z 134 [NCP(O)(OC2H5)O - ].

reactant | Diethyl cyanophosphonate | 3.06 mmol, 0.50 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | trimethylsulfoxonium iodide | 3.06 mmol, 0.673 g | [I-].C[S+](=O)(C)C
reactant | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
reactant | ether | 9 mL | CCOCC | C4H10O
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | Trimethylsulfoxonium Ethyl Cyanophosphonate | 0.47 g, 78% yield | C(C)OP([O-])(=O)C#N.C[S+](=O)(C)C | InChI=1S/C3H6NO3P.C3H9OS/c1-2-7-8(5,6)3-4;1-5(2,3)4/h2H2,1H3,(H,5,6);1-3H3/q;+1/p-1
